US07432391B2
2-Bromoethylamine hydrobromide (5 g) was added to a dispersion of 2.6 g of sodium carbonate in 49 ml of dioxane-water (2:1) and the mixture was stirred at 0° C. for 15 minutes. After that, 5.4 g of di-tert-butyl dicarbonate was added thereto and the mixture was stirred at 0° C. for 1 hour and then made to react at 20 to 25° C. for 12 hours. After evaporating the solvent using an evaporator, 65 ml of water was added to the residue and the mixture was extracted with 80 ml of ether. The ether layer was washed with water, dried over Glauber's salt and concentrated by an evaporator again to give 4.8 g (apparent yield: 94%) of tert-butyl N-(2-bromoethyl)carbamate as an oily substance (incidentally, the yield calculated on the basis of purity by NMR was 68%).

reactant | 2-Bromoethylamine hydrobromide | 5 g | Br.BrCCN
reactant | sodium carbonate | 2.6 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | di-tert-butyl dicarbonate | 5.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane water | 49 ml | O1CCOCC1.O
product | tert-butyl N-(2-bromoethyl)carbamate | 4.8 g, yield: 94% | BrCCNC(OC(C)(C)C)=O | C7H14BrNO2
